Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.98277281071
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.03771649674
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.377389259299999
[C:4]([H:5])#[C:7].[H:1][C:2]#[C:3][C:8]([H:6])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-4.947754239019999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1],5.12249807543
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.8115703561
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],3.97274222148
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:4],2.97426779676
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.25130720653
[C:4]([H:5])[H:9].[H:1][C:2]([H:3])[C:6]#[C:7][H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-5.477242170369999
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4],1.1405653434
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.2732631632
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[O:8]>>[H:1][C:2]=[C:3]1[O:4][C:5]=[C:6]([H:7])[O:8]1,-0.17325071891
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.68415809
[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-3.11091764309
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[O:14][H:15],1.98238886057
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4][O:5],3.26737630458
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5],5.16982526436
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],5.129960555619999
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.45066397153
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],5.10430241168
[H:12].[H:1][O:2]/[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.8423985223
[H:1][C:2]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.04678128665
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-5.55824893947
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.7342758698099998
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2][C:3](=[O:4])[C:9]([H:10])([H:11])[O:12][H:13],2.39184796727
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.371935501399999
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.38975813648
[C:2]([H:3])#[C:4][O:5][H:6].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][H:6],-3.44697189707
[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],0.337575987789
